US05616716
3-Bromo-5-ethoxypyridine
1,5-Dibromopyridine (98%) was purchased from Lancaster Chemical Company. Sodium ethoxide (96%) and N,N-dimethylformamide (DMF) (99.9+ %. HPLC grade) were purchased from Aldrich Chemical Company. Under a nitrogen atmosphere, a mixture of3,5-dibromopyridine (5.00 g, 21.1 mmol). sodium ethoxide (2.87 g, 42.2 mmol), and DMF (10 mL) was stirred and heated at 65° C. for 15 h. The mixture was poured into water (70 mL), and anhydrous diethyl ether (155 mL) was added. Because of insoluble solids, it was necessary to filter both phases. The aqueous layer was separated and extracted with ether (2 ×25,3 ×50 mL). The combined ether extracts were dried (MgSO4), filtered, and concentrated by rotary evaporation, producing a dark-brown syrup. The brown residue was purified by vacuum distillation, affording 0.76 g (17.9%) of an oil, bp 105° C. at 5 mm Hg. 1HNMR(CDCl3): δ 9.12 (br s, 1H), 8.83 (br s, 1H), 8.42 (dd, 1H), 4.41(q,2H), 1.42(t, 3H). 13C NMR (CDCl3): δ 142.72, 136.50. 1.23.78. 64.31.14.:57.

reactant | 1,5-Dibromopyridine | BrN1CC=CC(=C1)Br | C5H5Br2N
reactant | Sodium ethoxide | [O-]CC.[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium ethoxide | 42.2 mmol, 2.87 g | [O-]CC.[Na+]
reactant | DMF | 10 mL | CN(C=O)C | C3H7NO
reactant | water | 70 mL | O | H2O
solvent | diethyl ether | 155 mL | C(C)OCC | C4H10O
product | 3-Bromo-5-ethoxypyridine | 0.76 g, 17.9% | BrC=1C=NC=C(C1)OCC | C7H8BrNO
